US09315495B2
The compound was synthesized as in Example 3.1 using 5-bromothiophene-2-carbaldehyde (250 mg, 1.31 mmol) in place of 5-bromo-2-formylfuran and 3,3,3-trifluoropropyltrifluoroborate (440 mg, 2.16 mmol) in place of hexylboronic acid to give 5-(3,3,3-trifluoropropyl)thiophene-2-carbaldehyde (244 mg, 90%). Used without further characterization.

reactant | 5-bromothiophene-2-carbaldehyde | 1.31 mmol, 250 mg | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | 3,3,3-trifluoropropyltrifluoroborate | 2.16 mmol, 440 mg | FC(CC[B-](F)(F)F)(F)F
product | 5-(3,3,3-trifluoropropyl)thiophene-2-carbaldehyde | 244 mg, 90% | FC(CCC1=CC=C(S1)C=O)(F)F | C8H7F3OS
